US04020098
6.00 g (0.0199 mole) of 2,4-dihydroxy-6-phenyl-isophthalic acid dimethyl ester is dissolved under nitrogen in 40 ml of water and 40 ml of 2N sodium hydroxide solution. The light-red solution is refluxed for one hour; it is then cooled with an ice bath and carefully acidified with 8.0 ml of concentrated hydrochloric acid (carbon dioxide evolution). The mixture is then refluxed and boiled for 14 hours in a nitrogen atmosphere. The emulsion obtained after cooling is extracted twice with 100 ml of ether each time. The combined ether layers are dried with magnesium sulphate and concentrated in vacuo to obtain 3.98 g of crude product in the form of yellow crystals. This crude product is dissolved in 20 ml of ether; 50 ml of benzene is added and the ether then distilled off. 5-Phenylresorcinol crystallises out on standing. After cooling, there is added 50 ml of hexane, and the crystals are filtered off under suction; this yields 2.44 g of cream-coloured crystals, M.P. 154°-158°. Repeated crystallisation from 40 ml of benzene with the addition of 40 ml of hexane yields 2.03 g of 5-phenylresorcinol as colourless crystals, M.P. 157° - 158°.

reactant | 2,4-dihydroxy-6-phenyl-isophthalic acid dimethyl ester | 0.0199 mole, 6.00 g | COC(C1=C(C(C(=O)OC)=C(C=C1C1=CC=CC=C1)O)O)=O | C16H14O6
reactant | hydrochloric acid | 8.0 ml | Cl | ClH
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | water | 40 ml | O | H2O
solvent | sodium hydroxide | 2N, 40 ml | [OH-].[Na+]
solvent | ether | 20 ml | CCOCC | C4H10O
product | 5-phenylresorcinol | 2.03 g | C1(=CC=CC=C1)C=1C=C(C=C(O)C1)O | C12H10O2
